US08871782B2
tert-Butyl 2-{[4-amino-2-(ethoxymethyl)-1-(2-hydroxy-2-methylpropyl)-1H-imidazo[4,5-c]quinolin-7-yl]oxy}ethylcarbamate
A modification of the methods described in Parts A-I of Example 2 was used to prepare 2-(ethoxymethyl)-1-(2-hydroxy-2-methylpropyl)-1H-imidazo[4,5-c]quinolin-7-ol, with 3-benzyloxyaniline and 1-amino-2-methylpropan-2-ol used in lieu of 4 benzyloxyaniline and propylamine, respectively.

reactant | 2-(ethoxymethyl)-1-(2-hydroxy-2-methylpropyl)-1H-imidazo[4,5-c]quinolin-7-ol | C(C)OCC=1N(C2=C(C=NC=3C=C(C=CC23)O)N1)CC(C)(C)O | C17H21N3O3
reactant | 3-benzyloxyaniline | C(C1=CC=CC=C1)OC=1C=C(N)C=CC1 | C13H13NO
reactant | 1-amino-2-methylpropan-2-ol | NCC(C)(O)C | C4H11NO
reactant | benzyloxyaniline | C(C1=CC=CC=C1)ONC1=CC=CC=C1 | C13H13NO
reactant | propylamine | C(CC)N | C3H9N
product | tert-Butyl 2-{[4-amino-2-(ethoxymethyl)-1-(2-hydroxy-2-methylpropyl)-1H-imidazo[4,5-c]quinolin-7-yl]oxy}ethylcarbamate | NC1=NC=2C=C(C=CC2C2=C1N=C(N2CC(C)(C)O)COCC)OCCNC(OC(C)(C)C)=O | C24H35N5O5
